US05508293
After 6-amino-3-cyanopyridine (1.0 g, 8.4 mmol) was dissolved in 1-propanol (50 ml) and hydrogen chloride gas was passed into the solution at a temperature of 0°-10° C. for 30 minutes, the reactor was tight sealed for stirring the mixture at 0° C. for 21 hours. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure, and a saturated aqueous sodium hydrogen carbonate solution (50 ml) was added to the concentrated mixture to adjust the pH to alkaline. The mixture was extracted with chloroform (50 ml×3). The chloroform layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a crude product of propyl 6-amino-3-pyridinecarboximidate (1.56 g).

reactant | 6-amino-3-cyanopyridine | 8.4 mmol, 1.0 g | NC1=CC=C(C=N1)C#N | C6H5N3
reactant | hydrogen chloride | Cl | ClH
reactant | 1-propanol | 50 ml | C(CC)O | C3H8O
product | propyl 6-amino-3-pyridinecarboximidate | 1.56 g | NC1=CC=C(C=N1)C(OCCC)=N | C9H13N3O
